Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was brought here by police and that's all there is to it."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
On admission interview, patient says "I was brought here by 
police and that's all there is to it" and "there's no reason for 
me to be here." Asked about what led her here, says she went to 
her former workplace to confront staff about her firing. Once 
there, she says "there were people and daggers staring at me. 
They were making daggers." She says she repeatedly asked staff 
to call the police, but she would not say why she wanted this 
("that's my business.") When police arrived, they were not "the 
real police." They "should have" brought her to the police 
station, but instead she was taken to the hospital. She could 
not recall details of the day since then, saying she does not 
remember restraints or being in an emergency room.
     Patient initially says her mood is "fine" and "normal." 
With further questioning, however, she endorses feeling "like 
I'm on crack" with more energy, motivation, and minimal need for 
sleep for approximately 3 days. She has been focused on applying 
to a ___ degree program in psychology and losing weight. 
She endorses a history of periods in which she was relatively 
happier and more motivated, as well as periods of relative 
sadness. She then states "my [current] mood is unlike ever 
before." She endorses the presence of a precipitating event that 
triggered her change in mood, but refuses to elaborate further 
("it's not
relevant, you don't need to know"). She denies current or prior 
suicidal ideation, self-injury, homicidal ideation, 
hallucinations, or paranoia. When asked if her husband is 
concerned about her, she says he is worried his job may be 
negatively affected by her being in the hospital, because his 
workplace contracts with her former workplace.
     On medical ROS, she reports fever, sore throat, dry 
bloodshot eyes, and lymphadenopathy last weekend. These symptoms 
have since resolved. During the past week she also had a day or 
two of mild headache with visual disturbance (bright specks) and 
photosensitivity, which she says is similar to her typical 
headaches, except posterior rather than bitemporal. Finally, she 
reports 30 lbs of intentional weight loss in the past 3 months 
by walking more and cutting soda out of her diet.

COLLATERAL:
From ___ EMS Report on ___:
     "Found ___ year old female standing on sidewalk at above 
location, BPD on scene. Police report to EMS that earlier in the 
morning the patient entered the ___ where she was 
formerly employed and began harassing and yelling at staff, 
before eventually requesting that they call the police and the 
FBI. Per BPD, when police arrived on scene the patient refused 
to engage with them or answer any questions, alleging that they 
were not in fact the "real police." Unable to adequately assess 
mental status or obtain pertinent medical history as patient 
refuses to respond to EMS questioning, instead stating 
repeatedly, "Take me to the police station," and "I don't have 
to tell you anything." Patient assisted to stretcher and secured 
to A21, BPD onboard for transport. Patient refuses exam and 
vital signs. Patient condition monitored en route to hospital 
with no changes in status throughout transport. Upon arrival at 
BID ED patient to
cot in room 24 with rails up. Patient care and report 
transferred to staff RN. Patient transported without incident. 
A21 clear. 

From patient's husband, ___, per Dr ___ ED note
on ___:
     "The patient has been increasingly paranoid over the past 
month. Husband reports that one month ago, a homeless man 
started breaking into their apartment building every night and 
using a hallway to sleep. This person was not disruptive or 
destroying property, but the patient became increasingly 
preoccupied with
his presence. At first, her concerns seemed appropriate, but 
husband says she began developing theories as to why this man 
was sleeping in their building. She was so distraught by these 
ideas that she began sleeping very little at night. Patient 
believed that this person was part of a conspiracy to spy on 
her. Three
days ago, she quit her job at the front desk of a ___, and 
stated that she was going to start working on getting into 
psychology ___ programs (patient has bachelor's in 
psychology). Then two days ago, the patient started saying that
she felt the people at her job and the man sleeping in their 
hallway were connected somehow. She did not sleep at all that 
night, and decided to call the police to have this man removed 
from the building. When the police came to escort the man out, 
husband says the patient "thought they weren't taking it 
seriously, and then she started to say that the cops were in on 
it too."
     In the morning, the patient told him that she felt there 
was a corporation "tracking her" through her cell phone. She was 
supposed to meet with a relative for lunch that day, and said 
that when she spoke with this person on the phone, she didn't 
believe that it was really them. The patient did go to meet this 
relative and came home afterwards. Later in the afternoon, she 
went out for a walk to "clear her head", and was gone for six 
hours. Husband became extremely worried and spent much of this 
time "all over ___ looking for her". He returned home late 
last night to find her at the apartment, to his relief. The
patient did not sleep last night either, and this morning went 
outside and started "shouting down the street" about the 
conspiracy against her. It was at this time that she entered her 
place of former employment and was picked up by EMS. The patient 
has never experienced an episode like this before, and husband
feels "completely blindsided" by her recent behavior. He says 
she has not expressed any SI or HI."

From PCP ___:
Previous notes by her primary care physician ___ 
indicate that the patient had complained of times of very low 
energy and other times of increased activation and insomnia. She 
has also had episodes of gastric discomfort, significant  
fluctuations in her weight, recently lost 40-50 pounds. This
weight loss was intended.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Saw a psychologist for years while growing up for issues 
related
to being adopted as a young child from ___, including
attachment and relationships
-Has never seen a psychiatrist or taken psychiatric medications
-Per patient's husband, she has had lifelong difficulties with
relationships and attachment. He believes she goes through
periods of depression.

PAST MEDICAL HISTORY:
**PCP: per ___, Dr ___ at ___
-Hx R ankle fracture
Per ___, also:
Genital herpes, with frequent outbreaks noted in ___
-s/p Lasix
-s/p appendectomy
-s/p reduction mammoplasty
 
Social History:
SOCIAL HISTORY:
-Born/Raised: ___
-Relationship status/Children: married, no children
-Primary Supports: husband, father, mother; parents live in ___,
currently on vacation in ___ but flying back tomorrow
-Housing: lives with husband in ___
-Education: completed college (BA psychology), planning to go to
graduate school in psychology
-Employment/Income: recently unemployed, previously worked at
___ company (?) and nail ___

SUBSTANCE USE HISTORY:
-EtOH: "rarely"; per husband, prior hx heavy EtOH use which 
would "bring out the worst" in the patient incl physical 
aggression when intoxicated
-Marijuana: smokes vaporized marijuana ___
-Illicit: denies use of cocaine, meth, benzos, opiates,
psychedelics
-Tobacco: smokes ___ cigarettes/day

FORENSIC HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: unknown; patient was adopted
 
Physical Exam:
VITAL SIGNS:
T 98.4, HR 82, BP 106/72, RR 16, SpO2 97% on RA

EXAM:
General:
-HEENT: normocephalic, atraumatic, neck supple with full
range-of-motion without pain, mucous membranes moist
-Cardiovascular: RRR
-Pulmonary: CTAB
-Abd: NTND
-Ext: WWP, no edema
-Skin: no rashes or lesions noted

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL
---III, IV, VI: EOMI, two beats of horizontal nystagmus on
lateral gaze testing
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: not tested
-DTRs: not tested
___: not formally tested, but grossly intact
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: no memory of receiving restraints or being in the
emergency department (could be due to chemical restraint), does
not give detailed recall of events during past week (unclear if
due to unwillingness or inability), distant memory grossly
intact, ___ registration and recall 
-Fund of knowledge: intact to 2 of 3 last presidents ___
instead of ___
-Calculations: incorrectly says $2.75 = "2" then "10" quarters
-Abstraction: Interprets "don't judge a book by its cover"
appropriately
-Visuospatial: Not assessed
-Language: fluent ___, first language ___ but no 
longer
able to speak it

Mental Status:
-Appearance: adequate grooming and hygiene, appears stated age,
well-nourished, in no acute distress, sitting in chair in
hospital gown
-Behavior/Attitude: attitude and behavior inconsistent; 
expresses
that she does not need to be here, signs emergency hearing form,
gives short terse answers to questions, but participates in
complete interview and exam, expresses interest in workup and
treatment 
-Mood: currently "fine", affect guarded, tense
-Speech: short quick answers to questions, normal volume, not
pressured
-Thought process/associations: generally linear and
goal-oriented, but with suspected loosening of associations
("people and daggers staring at me") and
suggestibility/confabulation (description of her husband's
concerns borrowed from content of preceding answer; she 
initially
said her mood was normal, but after I remarked on how others had
noticed a change, she said her mood was unprecedented; $2.75 = 2
quarters)
-Thought content:
 --Safety: denies SI/HI
 --Delusions: strong historical evidence of paranoia (homeless
man actually a spy, a corporation is tracking her, police are
involved in a conspiracy), demonstrating suspicious/paranoid
behavior presently as evidenced by refusal to answer certain
seemingly-benign questions and unexplained request for emergency
hearing
 --Hallucinations: denies AVH, not acting on internal stimuli
-Insight: poor
-Judgment: limited
 
Pertinent Results:
LABS, IMAGING, AND OTHER STUDIES:
-CBC wnl, diff with 72.5%* neutrophils
-BMP with gluc 139*, HCO3 21*, AG 21*
-Ca ___, Phos 2.2*, Mg 2.0
-TSH 0.97
-hCG <5
-Serum and urine test neg
-UA with SG 1.038*, protein 100, ketone 40, urobiln 2, WBC 17,
bacteria few
-UCx pending

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Ms. ___ refused a conditional 
voluntary agreement (Section 10 & 11) but later signed on ___ 
and that legal status remained in place throughout admission.  
Ms. ___ was also placed on 15 minute checks status 
on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#) Psychosis - In the ED Ms. ___ was agitated and 
required sedation with IM Haldol 5mg-Ativan 2mg as well as 
4-point restraints.  Upon admission, she appeared guarded and 
somewhat suspicious/paranoid, but she was calm and cooperative 
with staff. She provided informed consent for a trial of 
Risperdal 1mg po qhs (for paranoia, disorganized behavior, mood 
lability); Zyprexa 5mg QHS was discontinued given less favorable 
metabolic risk profile.  Her mental status continued to improve 
with marked resolution of paranoia. She continued to exhibit 
some affective lability which diminished over the course of her 
hospitalization.  She requested PRN ativan 1mg which was 
effective in addressing her insomina.  On discharge, her mental 
status was notable for some residual affective lability - 
tearful "gratitude" - which was appropriate in the context of 
leaving the unit. She was provided counseling about the use of 
substances (see below) as contributing to her paranoia, brief 
thought disorganization, and mood lability. Discussed the 
recommendation for her to continue Risperidal 1mg QHS for at 
least ___ months prior to tapering. Also discussed trial of mood 
stabilizer (lamotrigine) for likely underlying bipolar 
diathesis; informed patient that this medication could be 
monitored and titrated during pregnancy given patient's prior 
discussion w/ PCP to get pregnant.

3. SUBSTANCE USE DISORDERS:
#) Marijuana Induced Mood Disorder - Ms. ___ and 
husband ___ reported daily marijuana use leading up to 
admission (vaping cannabis oil).  Ms. ___ was 
counseled regarding the negative effects of cannabis upon 
mental/physical health particularly given her unclear family 
mental health history. Abstinence from cannabis was encouraged.  
She was provided resources to assist in quitting upon discharge.

4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute  
medical issues prevented admission to ___ 4.  Additionally, she 
has no chronic medical issues requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___  was encouraged to participate in the 
various groups and milieu therapy opportunities offered by the 
unit.  The occupational therapy and social work groups that 
focus on teaching patients various coping skills.  She often 
attended these groups.  She was visible on the milieu and 
appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ did not have either an outpatient 
psychiatrist or therapist while admitted on Deac 4; however, Ms. 
___ primary care provider, Dr. ___, was emailed 
regarding patient's admission in order to facilitate referral 
from ___ to ___ outpatient clinic for future medication 
management and/or therapy. Ms. ___ was referred to 
___ Women's Partial Hospitalization Program for additional 
support and transition back to the community.

Ms. ___ gave verbal permission for the team to 
contact her husband ___ and father ___ who 
were also given an update on Ms. ___ progress 
while admitted and discharge plan. 

6. INFORMED CONSENT: 
*Medication: Risperdal (risperidone)
---Benefits: Treatment of obsessive thoughts, compulsive 
behaviors, and anxiety
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, TD (rare), hyperprolactinemia, QTc prolongation, 
drowsiness, nausea, constipation, weight gain, orthostatic 
hypotension (rare)

Ms. ___ was informed of alternative treatments, 
the consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above 
and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to 
be at an increased risk of harm to herself/others.  Ms. 
___ had no static risk factors; however, 
modifiable risk factors identified were as such:  acute episode 
of psychosis, unwillingness to seek treatment, lack of 
outpatient mental health providers, impulsivity, ongoing 
substance use, and acutely disorganized behavior.  These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  

Ms. ___ is being discharged with many protective 
factors, including future-oriented viewpoint, intelligence, 
sense of responsibility to family, female sex, strong support 
from family/spouse, no prior history of self harm or suicide 
attempts, and marked improvement with antipsyhchotic medication. 
In the absence of cannabis use, patient's risk for recurrent 
psychotic symptoms greatly decreases; her current sobriety and 
ongoing willingness to abstain positively impact her prognosis.

Overall, based on the totality of our assessment at this time, 
Ms. ___ is not at an acutely elevated risk of harm 
to self nor danger to others. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  LORazepam 1 mg PO QHS:PRN insomnia 
RX *lorazepam 1 mg 1 tablet by mouth at night Disp #*10 Tablet 
Refills:*0 
2.  RisperiDONE 1 mg PO QHS paranoia/psychosis 
RX *risperidone 1 mg 1 tablet(s) by mouth nightly Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance/medication-induced bipolar and related disorder

 
Discharge Condition:
VS:  BP: 112/64 HR: 77 temp: 98.4 resp: 16 O2 sat: 98 height:  
4' ___ weight: 158 lbs
  
Neurological:
    *station and gait:  ambulates without assistance
    *tone and strength:  moves all extremities against gravity
MSE:   
   *Appearance:  overweight, appropriately groomed, appears
stated age, dressed in street clothes
   Behavior:  cooperative, good eye contact, no PMA/PMR
   *Mood and Affect:  'grateful', full affect, some lability 
(tearful but consistent with thought content)
   *Speech: normal rate, volume, quantity, quality
   *Thought process:  Linear, logical, goal oriented
   *Thought Content:  no e/o delusions, SI, VI, AH/VH
  *Judgment and Insight:  fair/fair-improving
Cognition:
    *Attention, *orientation, and executive function:  attentive
to interview
    *Memory:  intact to recent/past events
    *Fund of knowledge:  fair
    *Language:  Fluent ___, no paraphasic errors

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___